US06949680B2
b) Synthesis of 1-(4-methylphenyl)-4-(2-phenylethoxy)-1-butanone
This compound was synthesized as described under 5.c) with 2.3 ml of HCl (1N), 2.05 g (6.3 mmol) of 2-(4-methylphenyl)-2-[3-(phenylethoxy)propyl]-1,3-dioxolane obtained under a) in 50 ml of THF for 3 h to give 1.81 g (99%) of a slightly yellow oil that solidifies at 4° C.

reactant | HCl | 1N, 2.3 ml | Cl | ClH
reactant | 2-(4-methylphenyl)-2-[3-(phenylethoxy)propyl]-1,3-dioxolane | 6.3 mmol, 2.05 g | CC1=CC=C(C=C1)C1(OCCO1)CCCOCCC1=CC=CC=C1 | C21H26O3
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 1-(4-methylphenyl)-4-(2-phenylethoxy)-1-butanone | CC1=CC=C(C=C1)C(CCCOCCC1=CC=CC=C1)=O | C19H22O2
